US06806274B1
1-benzyl-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]urea
Using an analogous procedure to that described in Example 1 except that the reaction mixture was heated to 35° C. for 16 hours, benzyl isocyanate was reacted with 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline to give the title compound; NMR Spectrum: (DMSOd6): 1.3-1.5 (m, 2H), 1.8-1.9 (m, 4H), 1.95 (t, 1H), 2.2 (s, 3H), 2.8 (br d, 2H), 3.9 (br s, 3H), 4.0 (br d, 2H), 4.5 (br d, 2H), 7.2-7.3 (m, 2H), 7.3-7.4 (m, 4H), 8.0 (br s, 1H), 8.55 (br s, 1H), 10.2-10.5 (br s, 1H), 10.4 (t, 1H); Mass Spectrum: M+H+ 436.

reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H22N4O2
product | 1-benzyl-3-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]urea | C(C1=CC=CC=C1)NC(=O)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C24H29N5O3
